US05700807
Equimolar quantities of mesyl chloride and cesium carbonate are added to a solution of ethyl 7-amino-1,2-dihydro-1-(2-methoxybenzyl)-4-(4-methoxyphenyl)-2-oxobenzofuro[3,2-b]pyridine-3-carboxylate in DMF and the mixture is stirred for one hour. After customary working up, ethyl 7-methylsulphonylamino-1,2-dihydro-1-(2-methoxybenzyl)-4-(4-methoxyphenyl)-2-oxobenzofuro-[3,2-b]pyridine-3-carboxylate is obtained.

reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 7-amino-1,2-dihydro-1-(2-methoxybenzyl)-4-(4-methoxyphenyl)-2-oxobenzofuro[3,2-b]pyridine-3-carboxylate | NC1=CC2=C(C=C1)C=1N(C(C(=C(C1O2)C2=CC=C(C=C2)OC)C(=O)OCC)=O)CC2=C(C=CC=C2)OC | C29H26N2O6
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 7-methylsulphonylamino-1,2-dihydro-1-(2-methoxybenzyl)-4-(4-methoxyphenyl)-2-oxobenzofuro-[3,2-b]pyridine-3-carboxylate | CS(=O)(=O)NC1=CC2=C(C=C1)C=1N(C(C(=C(C1O2)C2=CC=C(C=C2)OC)C(=O)OCC)=O)CC2=C(C=CC=C2)OC | C30H28N2O8S
